US08084489B2
3-({5-[1-(2,6-Dimethyl-4′-trifluoromethyl-biphenyl-4-yloxy)-propyl]-thiophene-2-carbonyl}-amino)-propionic acid (chiral Isomer 1)
A solution of 3-({5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxy)-propyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester (chiral Isomer 1) (79.6 mg, 0.153 mmol) in methanol (1.54 mL) is treated with 5N NaOH (0.154 mL) and shaken at rt overnight. The reaction is neutralized with 1N HCl (0.158 mL), and extracted into ethyl acetate (2×). The combined organic layers are dried and concentrated, giving the title compound (76 mg). MS (ES): 506.4 [M+H]+.

reactant | 3-({5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxy)-propyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester | 0.153 mmol, 79.6 mg | COC(CCNC(=O)C=1SC(=CC1)C(CC)OC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(F)(F)F)C)=O | C27H28F3NO4S
reactant | NaOH | 5N, 0.154 mL | [OH-].[Na+]
reactant | HCl | 1N, 0.158 mL | Cl | ClH
solvent | methanol | 1.54 mL | CO | CH4O
product | 3-({5-[1-(2,6-Dimethyl-4′-trifluoromethyl-biphenyl-4-yloxy)-propyl]-thiophene-2-carbonyl}-amino)-propionic acid | 76 mg | CC1=C(C(=CC(=C1)OC(CC)C1=CC=C(S1)C(=O)NCCC(=O)O)C)C1=CC=C(C=C1)C(F)(F)F | C26H26F3NO4S
